US03994885
In accordance with the procedures described by Example 1, benzhydryl 3-methoxymethyl-7-[2-(2-thienyl)acetamido]-3-cephem-4-carboxylate was reacted at a temperature of -80° C. with methyl lithium in the presence of methanol and t-butyl hypochlorite to provide benzhydryl 3-methoxymethyl-7-methoxy-7-[2-(2-thienyl)acetamido]-3-cephem-4-carboxylate.

reactant | benzhydryl 3-methoxymethyl-7-[2-(2-thienyl)acetamido]-3-cephem-4-carboxylate | COCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2NC(CC=2SC=CC2)=O)=O | C28H26N2O5S2
reactant | methyl lithium | C[Li]
reactant | t-butyl hypochlorite | ClOC(C)(C)C | C4H9ClO
solvent | methanol | CO | CH4O
product | benzhydryl 3-methoxymethyl-7-methoxy-7-[2-(2-thienyl)acetamido]-3-cephem-4-carboxylate | COCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2(NC(CC=2SC=CC2)=O)OC)=O | C29H28N2O6S2
